US09328117B2
A suspension of starting material 6-chloro-3-hydrazinylpyridazine-4-carboxylic acid (4.80 g, 26 mmol) in acetic acid (100 mL) was heated at 100° C. for 3 hours. The mixture was cooled to room temperature, concentrated in vacuum to give the crude product, which was washed by PE (50 mL) first, then recrystallized from MeOH to give product 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid as a yellow solid (4.00 g, 72.5%). 1H NMR (300 MHz, DMSO) δ: 7.2 (s, 1H), 2.66 (s, 3H). LRMS (M+H+) m/z: calcd 213; found 213.

reactant | 6-chloro-3-hydrazinylpyridazine-4-carboxylic acid | 26 mmol, 4.80 g | ClC1=CC(=C(N=N1)NN)C(=O)O | C5H5ClN4O2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 6-chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazine-8-carboxylic acid | 4.00 g, 72.5% | ClC=1C=C(C=2N(N1)C(=NN2)C)C(=O)O | C7H5ClN4O2
